US07192950B2
{2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetylamino}-acetic acid ethyl ester
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with glycine ethyl ester hydrochloride.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | glycine ethyl ester hydrochloride | Cl.C(C)OC(CN)=O
product | {2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetylamino}-acetic acid ethyl ester | C(C)OC(CNC(C(C1=CC=CC=C1)N1C(C2=C(CCC1)C=C(C(=C2)OC)OC)CC2=CC(=C(C=C2)OC)OC)=O)=O | C33H40N2O7
